US04234588
A mixture of 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine (1.30 g), 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone (1.41 g) and pyridine (10 ml) was heated under reflux for 46 hours and evaporated to dryness. The residue was washed with hot water to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone as an oil and this oil was treated with excess of hydrogen chloride in ethanol and evaporated to dryness. The residue was recrystallised from aqueous ethanol containing HCl to give 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone trihydrochloride m.p. 210°-213°. A sample recrystallised a further time from aqueous ethanol containing HCl had m.p. 224°-227°.

reactant | 2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamine | 1.30 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 5-(6-methyl-3-pyridylmethyl)-2-methylthio-4-pyrimidone | 1.41 g | CC1=CC=C(C=N1)CC=1C(NC(=NC1)SC)=O | C12H13N3OS
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-dimethylaminomethyl-2-furylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | CN(C)CC1=CC=C(O1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C21H27N5O2S
